US06251926B1
A solution of 2-[2-(methoxycarbonyl)ethyl]-2-phenyl-1,3-dioxolane (5.00 g) in diethyl ether (15 ml) was added dropwise to a mixture of lithium aluminium hydride (949 mg) and diethyl ether (30 ml) at 0° C. After stirring for 30 minutes, water was added to the reaction mixture carefully and the precipitates were removed by filtration. The filtrate was extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain 2-(3-hydroxypropyl)-2-phenyl-1,3-dioxolane (3.81 g, yield 87%) as a colorless oil from an ethyl acetate-hexane (2:3, v/v)-eluted fraction.

reactant | 2-[2-(methoxycarbonyl)ethyl]-2-phenyl-1,3-dioxolane | 5.00 g | COC(=O)CCC1(OCCO1)C1=CC=CC=C1 | C13H16O4
reactant | lithium aluminium hydride | 949 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(3-hydroxypropyl)-2-phenyl-1,3-dioxolane | 3.81 g, yield 87% | OCCCC1(OCCO1)C1=CC=CC=C1 | C12H16O3
